US07678803B2
To a solution of 6-fluoroisoquinoline N-oxide (3 g, 18 mmol) in CHCl3 (50 mL) is added phosphorus oxychloride (5 mL, 54 mmol). The reaction mixture is refluxed for 2 h. The reaction mixture is poured into ice, and the pH is brought to pH 8-9 with 5 M NaOH. The aqueous phase is extracted with CH2Cl2 (3×). The combined organic layers are dried over MgSO4, and evaporated. Purification of the crude product by Biotage column eluted with 0-30% EtOAc/hexanes afforded 1.06 g (35%) of 1-chloro-6-fluoro-isoquinoline. LC/MS m/z=182 [M+H]+.

reactant | 6-fluoroisoquinoline N-oxide | 18 mmol, 3 g | FC=1C=C2C=C[N+](=CC2=CC1)[O-] | C9H6FNO
reactant | phosphorus oxychloride | 54 mmol, 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 5 M | [OH-].[Na+]
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-6-fluoro-isoquinoline | 1.06 g, 35% | ClC1=NC=CC2=CC(=CC=C12)F | C9H5ClFN
